### PR TITLE
feat: equation (8.0.8)

### PR DESCRIPTION
**Pull request by grunweg**
Proves equation (8.0.8), except for one sorry --- which is progress towards Lemma 8.0.1. All of this is entirely my code.
The next PR will complete the proof of that lemma, using `sgouezel`'s work.

### CODE REVIEW

**Comment by grunweg** [comment]
Best squash-merged.

File: Carleson/HolderVanDerCorput.lean [hunk 1]
```diff
@@ -94,9 +94,83 @@ private lemma n_spec1 (ht : 0 < t) : 1 < 2 ^ (@n_8_0_7 t) * t := calc
     gcongr
     exact Int.lt_zpow_succ_log_self (by norm_num) (1 / t)
 
+private lemma n_pos (ht : t ∈ Ioc 0 1) : 0 < @n_8_0_7 t := sorry
+
 -- This lemma is probably not needed.
 -- private lemma n_spec2 : ∀ n' < n_8_0_7, 2 ^ n' * t < 1 := sorry
 
+-- this lemma should be in mathlib: its converse is an easy `by gcongr`
+lemma missing' {I a b : ℝ≥0∞} (hI : 0 ≤ I) (h : I * a ≤ I * b) : a ≤ b := by
```
[the remark this answers is not in the document]
Comment (fpvandoorn) [reply Carleson/HolderVanDerCorput.lean:103]: found with loogle: `ENNReal, _ * _ ≤ _ * _`

File: Carleson/HolderVanDerCorput.lean [hunk 2]
```diff
@@ -94,9 +94,83 @@ private lemma n_spec1 (ht : 0 < t) : 1 < 2 ^ (@n_8_0_7 t) * t := calc
     gcongr
     exact Int.lt_zpow_succ_log_self (by norm_num) (1 / t)
 
+private lemma n_pos (ht : t ∈ Ioc 0 1) : 0 < @n_8_0_7 t := sorry
```
Comment (fpvandoorn) [inline Carleson/HolderVanDerCorput.lean:97]: Feel free to make `t` explicit

**Comment by grunweg** [comment]
@fpvandoorn Any objections to merging this? I'm currently merging `sgouezel`'s proof of (parts of) Lemma 8.0.1, and having this merged could make it easier to compare changes.

File: blueprint/src/chapter/main.tex [hunk 3]
```diff
@@ -6226,25 +6226,25 @@ \chapter{Proof of the H\"older cancellative condition}
...
     \end{equation}
 We have that $L(x,y)\neq 0$ implies
 \begin{equation}\label{eql01}
     y\in B(x, tR)\, .
 \end{equation}
 We have for $y\in B(x, 2^{-1}tR)$ that
 \begin{equation}\label{eql30}
-           |L(x,y)|\ge 2^{-1} \ .
-    \end{equation}
+    L(x,y)|\ge 2^{-1} \ .
```
Comment (fpvandoorn) [inline blueprint/src/chapter/main.tex:6239]: An odd number of vertical lines here.

Comment (grunweg) [reply blueprint/src/chapter/main.tex]: Thanks, fixed!
